US09447049B2
S-Biphenyl-3-yl O-ethyl carbonodithioate (52a)
To a solution of 1 equiv. of biphenyl-3-amine (1 g, 5.92 mmol) in water (7.3 mL) at 0° C. was added concentrated hydrochloric acid (1 mL). A cold solution of 1.1 equiv. of sodium nitrite (450 mg, 6.5 mmol) in water (3 mL) was added slowly and stirred for 15 min. The cold diazonium solution was added slowly to a solution of 1.3 equiv. of potassium ethyl xanthate (1.16 g, 1.3 mmol) in water (1.3 mL) at 45° C. The reaction mixture was stirred for an additional 30 min at 45° C. and then cooled to RT. The reaction mixture was extracted with diethyl ether (3×50 mL). The combined organic extracts were washed with 1N NaOH solution (100 mL), water (3×50 mL), brine (50 mL), dried over MgSO4, filtered and evaporated under reduced pressure. The resulting crude xanthate 52a was used directly in the next step without further purification. MS (ESI) m/z 275.0 (M+H)+.

reactant | biphenyl-3-amine | 5.92 mmol, 1 g, 1 equiv. | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | sodium nitrite | 6.5 mmol, 450 mg, 1.1 equiv. | N(=O)[O-].[Na+]
reactant | potassium ethyl xanthate | 1.3 mmol, 1.16 g, 1.3 equiv. | O(C(=S)[S-])CC.[K+]
solvent | water | 7.3 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | water | 1.3 mL | O | H2O
product | S-Biphenyl-3-yl O-ethyl carbonodithioate | C(OCC)(=S)SC=1C=C(C=CC1)C1=CC=CC=C1 | C15H14OS2
